US06218404B1
4-(4-aminobenzyl)-1-(3-hydroxy-butyl)piperidine hydrochloride
A mixture of 4-(4-nitrobenzyl)-1-(3-hydroxy-butyl) piperidine hydrochloride (0.17 g, 0.53 mmol) in methanol (10 mL) with Pd/C, 10% (0.06 g) was hydrogenated at 1 atm and 25° C. for 18 h then, after filtration through a celite pad and concentration under reduced pressure, the crude compound was triturated with EtOAc (10 mL) for 15 h to afford the title compound (0.13 g, 80%) as a pale pink solid: mp 155-160° C.; 1H NMR (D2O) 1.038 (d, J=6.0, 3H), 1.28-1.36 (m, 2H), 1.58-1.82 (m, 5H), 2.342 (d, J=6.3, 2H), 2.65-2.80 (m, 2H), 2.90-3.10 (m, 2H), 3.32-3.43 (m, 2H), 3.65-3.80 (m, 1H), 6.64 (d, J=8.7, 2H), 6.909 (d, J=8.4, 2H); Anal calcd for C16H27ClN2OH2O: C, 60.65, H, 9.22, N, 8.84, found C, 61.45, H, 8.76, N, 8.81.

reactant | 4-(4-nitrobenzyl)-1-(3-hydroxy-butyl) piperidine hydrochloride | 0.53 mmol, 0.17 g | Cl.[N+](=O)([O-])C1=CC=C(CC2CCN(CC2)CCC(C)O)C=C1
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-aminobenzyl)-1-(3-hydroxy-butyl)piperidine hydrochloride | 0.13 g, 80% | Cl.NC1=CC=C(CC2CCN(CC2)CCC(C)O)C=C1 | InChI=1S/C16H26N2O.ClH/c1-13(19)6-9-18-10-7-15(8-11-18)12-14-2-4-16(17)5-3-14;/h2-5,13,15,19H,6-12,17H2,1H3;1H
